US09233979B2
A solution of (R)-1-(4-chloro-5-cyano-6-(methoxymethyl)pyridin-2-yl)-3-(1-phenylethyl)urea (151.4 mg, 0.439 mmol) and hydrazine hydrate (75 μl, 1.546 mmol) in EtOH (4 ml) was heated to 100° C. in a sealed vial for 18 hr. The mixture was concentrated in vacuo and purified via flash chromatography (0-20% MeOH/EtOAc) to provide (R)-1-(3-amino-4-(methoxymethyl)-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea. MS ESI calc'd for C17H21N6O2 [M+H]+ 341. found 341. 1H NMR (ppm, 500 MHz, DMSO-d6) δ 11.60 (s, 1H), 8.97 (s, 1H), 7.33 (m, 4H), 7.22 (m, 1H), 7.14 (s, 1H), 5.35 (s, 2H), 4.85 (t, J=7.1, 1H), 4.65 (m, 2H), 3.31 (s, 3H, overlaps with H2O peak), 3.15 (d, J=5.1 Hz, 1H), 1.39 (d, J=7.1 Hz, 1H).

reactant | (R)-1-(4-chloro-5-cyano-6-(methoxymethyl)pyridin-2-yl)-3-(1-phenylethyl)urea | 0.439 mmol, 151.4 mg | ClC1=CC(=NC(=C1C#N)COC)NC(=O)N[C@H](C)C1=CC=CC=C1 | C17H17ClN4O2
reactant | hydrazine hydrate | 1.546 mmol, 75 μl | O.NN
solvent | EtOH | 4 ml | CCO | C2H6O
product | (R)-1-(3-amino-4-(methoxymethyl)-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | NC1=NNC2=C1C(=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2)COC | C17H20N6O2
